US03949084
A mixture of 15 g. of 2,4-dichlorobenzoic acid, 10 g. of p-methylphenol, 0.5 g. of copper powder and 20 g. of anhydrous potassium carbonate in 200 ml. of dimethylformamide is heated to 165° C and maintained thereat with stirring and under a nitrogen atmosphere. After monitoring via tlc indicates the reaction is substantially complete, the reaction mixture is diluted with water, treated with charcoal, filtered and the clear filtrate acidified. The precipitate is isolated by suction filtration, washed neutral and dried to give 2-(p-methylphenyloxy)-4-chlorobenzoic acid.

reactant | 2,4-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | p-methylphenol | CC1=CC=C(C=C1)O | C7H8O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | charcoal | C | CH4
solvent | water | O | H2O
catalyst | copper | [Cu] | Cu
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(p-methylphenyloxy)-4-chlorobenzoic acid | CC1=CC=C(C=C1)OC1=C(C(=O)O)C=CC(=C1)Cl | C14H11ClO3
